Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Aspirin
 
Attending: ___.
 
Chief Complaint:
globus sensation
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI: Ms. ___ is a ___ female with  asthma p/w
difficulty swallowing. Says she has had diff swallowing solids
since ___, thought ___ thyroid nodules. She got sick in 
___
with a really bad cold. She then developed sinusitis and ? PNA
for which she had a CXR. This chest X ray demonstrated an
enlarged thyroid. She had a non-diagnostic FNA. She then had a
second FNA on ___ and developed a hematoma at the site. 
She
then started experiencing short bouts of swallowing 
difficulties.
Since then it kept getting progressively worse until she was 
only
able to eat pureed foods. She is now s/p R hemithyroidectomy at
___ ___. She thought that after her surgery she was better
because she was able to eat a small amount of scrambled eggs but
she has not been able to do that since then. She was able to
tolerate watered down yogurt, blended soups until yesterday.
Yesterday she said she started having difficulty swallowing with
liquids and had a coughing fit. She feels like the liquids got
stuck at the level of her neck. After this "choking" event, she
noted pleuritic CP and SOB. At ___, EKG stable, trop neg, CXR
unremarkable, TSH 5.1. She underwent CT neck which showed no
mass/fluid collection.  Pt reports had elevated TSH @ OSH. Pt
received 10mg Dex IV @ 0140 and 1L NS She was transferred to
___ for possible endoscopy. 
In the ED triage VS: 0 |98.1 |83 |134/74 |18 |97% RA 
Given Tylenol ___ mg liquid.
She was unable to tolerate her po trial- one sip of apple juice
resulted in coughing. She feels that things are getting stuck in
the back of her throat. She feels as though something is 
blocking
the R side of her throat. It feels as though things are going
past the L side of her throat. GI was consulted who recommended
an ENT evaluation. ENT deferred evaluation since the CT scan was
WNL. GI recommended a speech and swallow evaluation as part of
evaluation of the oropharynx prior to endoscopy. 

ROS: 
She has a good appetite but she cannot eat because of the pain 
of
swallowing. She has lost 12 lbs in the past month. She does not
have any rashes. She has constant vaginal burning which worsens
with urination. She was able to tolerate liquids and pureed food
but this changed yesterday when she choked on a combination of
yogurt/milk/ice-cream. She does not have difficulty chewing but
it is difficult for her to swallow.  +Rigors when she choked on
the food. + Esophageal burning ___. No other fevers or chills.
Mild nausea, but no frank emesis. Small bm yesterday. She has 
not
had a full good bowel movement since before her surgery. She 
does
not feel constipated. No blood in stool.  She has esophageal
pressure which is not pleuritic. Her breathing feels "funny when
she does that".  She has a ___ HA which she thinks is secondary
to not having had caffeine.  All yesterday and last night she 
had
posterior neck pain which has since resolved.  Yesterday when 
she
was swallowing she felt maxillary sinus fullness. She has never
had dysphagia before. 

 
Past Medical History:
Asthma
GERD
Recent evaluation for enlarged thyroid
 
Social History:
___
Family History:
Her father died at ___. He was being treated at ___ and may 
have
died of a coronary event. Her mother died at ___ from MS. ___ was
bed ridden.

 
Physical Exam:
___ Temp: 98.2 PO BP: 118/71 HR: 70 RR: 16 O2
sat: 95% O2 delivery: RA Dyspnea: 5 RASS: 0 Pain Score: ___ 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
R submandibular gland slightly enlarged compared to L.
Well healed L hemithyroidectomy scar. 
No cervical LAD
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended. Mild epigastric tenderness with
deep palpation. There is no rebound or guarding.  Bowel sounds
present.  
GU: No suprapubic fullness or tenderness to palpation
No CVAT b/l
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Exam on discharge:
Vitals: 98.6 BP: 116/57 HR:65 18 95 RA  
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx +white plaque on tongue. No oropharyngeal erythema.
tongue midline. 
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect, anxious

 
Pertinent Results:
___ 02:32PM URINE  HOURS-RANDOM
___ 02:32PM URINE  UHOLD-HOLD
___ 02:32PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:32PM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-40* BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-SM*
___ 02:32PM URINE  RBC-5* WBC-4 BACTERIA-NONE YEAST-NONE 
EPI-1 TRANS EPI-<1
___ 02:32PM URINE  MUCOUS-RARE*
___ 06:33AM   GLUCOSE-124* UREA N-9 CREAT-0.8 SODIUM-139 
POTASSIUM-4.5 CHLORIDE-106 TOTAL CO2-16* ANION GAP-17
___ 06:33AM   estGFR-Using this
___ 06:33AM   WBC-5.7 RBC-3.62* HGB-11.8 HCT-35.4 MCV-98 
MCH-32.6* MCHC-33.3 RDW-11.8 RDWSD-42.3
___ 06:33AM   NEUTS-88.5* LYMPHS-8.8* MONOS-1.1* EOS-0.0* 
BASOS-0.5 IM ___ AbsNeut-5.02 AbsLymp-0.50* AbsMono-0.06* 
AbsEos-0.00* AbsBaso-0.03
___ 06:33AM   PLT COUNT-___T neck at OSH: Mild post operative changes in the thyroid bed.
No evidence of fluid collection or mass post R thyroidectomy.
Unremarkable L lobe of the thyroid. No evidence of cervical
adenopahty or other soft tissue abnormality. Degenerative 
changes
of the lower cervical spine. 

Pathology from ___: Thyroid: Multiple Benign macrofollicular
hyperplastic-appearing thyroid nodules
Lymphnode: One lymph node; negative for malignancy

 
Brief Hospital Course:
Ms. ___ is a ___ female with a PMH of asthma and GERD 
presenting with worsening dysphagia at first for solids now with 
liquids which began after a thyroid FNA. 

# Dysphagia/Globus sensation
# Malnutrition
# Oropharyngeal ___ patient presented with sensation of inability to swallow and 
that something was stuck. She has significant anxiety associated 
with this sensation. She had been started on Ativan by PCP 
without improvement.  She had a CT scan at OSH without 
abnormality other than post-surgical changes. ___ pathology was 
reviewed via physican gateway and was negative for malignancy. 
The patient was evaluated by SLP and had a videoswallow which 
showed a functional oropharyngeal swallowing mechanism. They 
recommended a diet of regular liquids and thin solids. She was 
seen by the GI consult service who recommended non-urgent EGD if 
symptoms do not resolve. The patient was also noted to have 
thrush. She was stared on Nystatin to see if this improves her 
symptoms. The patient was tolerating a diet, although not eating 
much, prior to discharge. She has outpatient follow up arranged 
with GI, ENT and with her PCP after discharge. 

#GERD: continue H2 blocker, trial of PPI- wrote for 
disintegrating lansoprazole

#ASTHMA: continue inhalers

Transitional issues:
- Consider repeat CBC at follow up given abnormal differential
- If re-presents, could consider ENT evaluation for direct 
visualization and EGD

The patient was seen and examined on discharge. >30 minutes on 
discharge activities.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob 
2. Clindamycin 1% Solution 1 Appl TP QHS 
3. Esomeprazole 40  mg Other DAILY 
4. estradiol 0.01 % (0.1 mg/gram) vaginal TWICE PER WEEK 
5. Fluticasone Propionate 110mcg 2 PUFF IH BID 
6. Lidocaine Jelly 2% (Glydo) 1 Appl TP DAILY:PRN HEMRRHOIDS 
7. Rhinocort Nasal Inhaler 90 mcg/actuation nasal BID 

 
Discharge Medications:
1.  Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
RX *lansoprazole 30 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
2.  Nystatin Oral Suspension 5 mL PO QID 
RX *nystatin 100,000 unit/mL 5 ml by mouth four times a day 
Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q4H:PRN sob  
4.  Clindamycin 1% Solution 1 Appl TP QHS  
5.  estradiol 0.01 % (0.1 mg/gram) vaginal TWICE PER WEEK  
6.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
7.  Lidocaine Jelly 2% (Glydo) 1 Appl TP DAILY:PRN HEMRRHOIDS  
8.  Rhinocort Nasal Inhaler 90 mcg/actuation nasal BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Dysphagia
Oral candidiasis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you during your admission to 
___. You were admitted with difficulty swallowing and the 
sensation that something is stuck in your throat. You were 
treated for thrush and you should continue this medication for 
___ days. You were also seen by the speech-language pathologist 
and had a video swallow which showed no abnormalities with your 
swallowing. You can eat or drink whatever you would like. You 
should also drink protein supplements such as ensure with your 
meals.
We have arranged follow up with ENT, GI and your PCP for ongoing 
evaluation of your symptoms.

We wish you the best,
Your ___ Care team

 
Followup Instructions:
___